US07094777B2
Step 1: 1-(Diphenylmethyl)-3-{[(4-fluorophenyl)thio]methyl}azetidin-3-ol
Sodium hydride (0.128 g of a 60% dispersion in mineral oil, 3.2 mmol) was added to a solution of 4-fluorobenzenethiol (0.29 mL, 2.7 mmol) in THF (10 mL). The resulting mixture was stirred at room temperature for 10 min and then cooled to 0° C. A solution of 5-(diphenylmethyl)-1-oxa-5-azaspiro[2.3]hexane [prepared by the method of J. L. Castro Pineiro et al. WO 97/42189] (0.68 g, 2.71 mmol) in THF (8 mL) was added and the resulting mixture stirred at −1° C. for 40 min then at room temperature overnight. The reaction mixture was poured into water (200 mL) and extracted with EtOAc (100 mL then 50 mL). The organic extracts were washed with saturated brine (100 mL), combined, dried (MgSO4) and concentrated. The residue was purified by flash silica chromatography, eluting with 25% EtOAc/isohexane, to give the title product as an oil (0.82 g, 80%). 1H NMR (400 MHz, CDCl3) δ 2.67 (1H, s), 2.94–2.96 (2H, m), 3.18–3.20 (2H, m), 3.43 (2H, s), 4.34 (1H, s), 6.96–7.02 (2H, m), 7.15–7.19 (2H, m), 7.23–7.26 (4H, m), 7.34–7.36 (4H, m), 7.41–7.46 (2H, m). (376 MHz, CDCl3) δF −115.2. m/z (ES+) 380 (M+H)+.

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-fluorobenzenethiol | 2.7 mmol, 0.29 mL | FC1=CC=C(C=C1)S | C6H5FS
reactant | 5-(diphenylmethyl)-1-oxa-5-azaspiro[2.3]hexane | C1(=CC=CC=C1)C(N1CC2(CO2)C1)C1=CC=CC=C1 | C17H17NO
reactant | water | 200 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 1-(Diphenylmethyl)-3-{[(4-fluorophenyl)thio]methyl}azetidin-3-ol | 0.82 g, 80% | C1(=CC=CC=C1)C(N1CC(C1)(O)CSC1=CC=C(C=C1)F)C1=CC=CC=C1 | C23H22FNOS
